US04745111
11.6 g (43 millimoles) of 4-chloro-10-cyanomethylenethieno[4,3-e]benzoazepine were dissolved in 70 ml of dimethylformamide, and 10 ml (90 millimoles) of N-methylpiperazine and 10 ml (75 millimoles) of triethylamine were added, a highly exothermic reaction taking place. The mixture was stirred for from 2 to 3 hours at 100° C. under nitrogen, the dark homogeneous reaction mixture was then cooled and poured onto ice water, the yellowish crude product 10-cyanomethylene-4-(4-methylpiperazin-1-yl)-thieno[4,3-e]benzoazepine, was filtered off under suction. The crude product was dried in a drying oven under reduced pressure and then recrystallized from ethanol with the addition of active carbon or purified by column chromatography (silica gel, mobile phase 95:5 methylene chloride/methanol). 11.6 g (81%) of yellowish 10-cyanomethylene4-(4-methylpiperazin-1-yl)-thieno[4,3-e]benzoazepine were obtained in the form of a cis/trans isomer mixture of melting point 90°-92° C.

reactant | 4-chloro-10-cyanomethylenethieno[4,3-e]benzoazepine | 43 millimoles, 11.6 g | ClC=1C=CN=C2C3(C1CSC3)CC(C=C2)=CC#N | C14H11ClN2S
reactant | N-methylpiperazine | 90 millimoles, 10 ml | CN1CCNCC1 | C5H12N2
reactant | triethylamine | 75 millimoles, 10 ml | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
product | 10-cyanomethylene4-(4-methylpiperazin-1-yl)-thieno[4,3-e]benzoazepine | 11.6 g, 81% | C(#N)C=C1C=CC=2C3(C(=C(C=CN2)N2CCN(CC2)C)CSC3)C1 | C19H22N4S
